US08497264B2
A solution of KBr (65.1 g, 0.55 mol) in water (5.9 L) was added to a solution of (5-bromo-2-fluorophenyl)(6-chloro-2-fluoro-3-(methoxymethoxy)pyridin-4-yl)methanol (2157 g, 5.47 mol) in DCM (5.9 L). The resulting biphasic mixture was cooled to 5° C. TEMPO (8.6 g, 0.055 mol) was added and the reaction mixture was stirred for 5 min. A solution of NaHCO3 (106 g, 1.26 mol, 0.23 eq) in bleach (6170 mL, 6.01 mol, 1.1 eq) was added slowly keeping the internal temperature below 10° C. After the addition was completed, the organic phase was separated. The aqueous layer was extracted with DCM (4 L×2). The combined organic layers were washed with 5% aqueous solution of sodium metabisulfite (6 L×1), brine (3 L×1) and dried over anhydrous Na2SO4. The solution was concentrated under reduced pressure to give 2200 g of (5-bromo-2-fluorophenyl)(6-chloro-2-fluoro-3-(methoxymethoxy)pyridin-4-yl)methanone as a yellow solid.

reactant | (5-bromo-2-fluorophenyl)(6-chloro-2-fluoro-3-(methoxymethoxy)pyridin-4-yl)methanol | 5.47 mol, 2157 g | BrC=1C=CC(=C(C1)C(O)C1=C(C(=NC(=C1)Cl)F)OCOC)F | C14H11BrClF2NO3
reactant | NaHCO3 | 1.26 mol, 106 g, 0.23 eq | C(=O)(O)[O-].[Na+]
solvent | water | 5.9 L | O | H2O
solvent | DCM | 5.9 L | C(Cl)Cl | CH2Cl2
catalyst | KBr | 0.55 mol, 65.1 g | [K+].[Br-]
catalyst | TEMPO | 0.055 mol, 8.6 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
product | (5-bromo-2-fluorophenyl)(6-chloro-2-fluoro-3-(methoxymethoxy)pyridin-4-yl)methanone | 2200 g | BrC=1C=CC(=C(C1)C(=O)C1=C(C(=NC(=C1)Cl)F)OCOC)F | C14H9BrClF2NO3
